US06331640B1
Tetra-n-butylammonium fluoride (1 M in tetrahydrofuran; 3.94 mL, 3.94 mmol) was added to a solution of N-[2,6-dichloro-4-[[[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]methyl]amino]carbonyl]benzoyl]-3-[(thiophene-2-carbonyl)amino]-L-alanine (2.38 g, 3.6 mmol) in tetrahydrofuran (30 mL). The solution was stirred at room temperature for 3 h, then diluted with ethyl acetate and concentrated. The residue was chromatographed (50-100% ethyl acetate/hexanes then 10% methanol/ethyl acetate) to give N-[2,6-dichloro-4-[[[(3-hydroxyphenyl) methyl]am ino]carbonyl]benzoyl]-3-[(thiophene-2-carbonyl)amino]-L-alanine, methyl ester (1.68 g, 85%) as a white solid.

reactant | Tetra-n-butylammonium fluoride | 3.94 mmol, 1 M, 3.94 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | N-[2,6-dichloro-4-[[[[3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]phenyl]methyl]amino]carbonyl]benzoyl]-3-[(thiophene-2-carbonyl)amino]-L-alanine | 3.6 mmol, 2.38 g | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)Cl | C29H33Cl2N3O6SSi
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[2,6-dichloro-4-[[[(3-hydroxyphenyl) methyl]am ino]carbonyl]benzoyl]-3-[(thiophene-2-carbonyl)amino]-L-alanine, methyl ester | 1.68 g, 85% | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)OC)C(=CC(=C1)C(=O)NCC1=CC(=CC=C1)O)Cl | C24H21Cl2N3O6S
